US08912200B2
Step 3: N-{4-Methoxy-3-[(trimethylsilyl)ethynyl]phenyl}-1-methylpiperidin-4-amine
Into a flask maintained under argon atmosphere N-(3-iodo-4-methoxyphenyl)-1-methylpiperidin-4-amine (180 mg, 0.52 mmol), CuI (9.9 mg, 0.052 mmol) and Pd(Ph3P)Cl2 (36.5 mg, 0.052 mmol) were added and dissolved in acetonitrile (5 mL) and dioxane (5 mL). The solution was degassed and backfilled with argon for three times. TEA (0.725 mL, 526 mg, 5.2 mmol) and (ethynyl)trimethylsilane (0.147 mL, 0.102 mg, 1.04 mmol) were added with a syringe and the solution was stirred at room temperature for 75 min. The volatiles were evaporated and the residue was taken up with EtOAc (30 mL), washed with water (3×5 mL), dried over sodium sulfate and the solvent was removed under vacuum.

reactant | N-(3-iodo-4-methoxyphenyl)-1-methylpiperidin-4-amine | 0.52 mmol, 180 mg | IC=1C=C(C=CC1OC)NC1CCN(CC1)C | C13H19IN2O
reactant | (ethynyl)trimethylsilane | 1.04 mmol, 0.147 mL, 0.102 mg | C(#C)[Si](C)(C)C | C5H10Si
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.052 mmol, 9.9 mg | [Cu]I
product | N-{4-Methoxy-3-[(trimethylsilyl)ethynyl]phenyl}-1-methylpiperidin-4-amine | COC1=C(C=C(C=C1)NC1CCN(CC1)C)C#C[Si](C)(C)C | C18H28N2OSi
